US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0316 g, 0.0685 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0570 mL, 0.411 mmol) and 1,2-dimethylimidazole-4-sulfonyl chloride (0.0400 mL, 0.205 mmol) to obtain 4-(1,2-dimethylimidazol-4-ylsulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0217 g, yield 51%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0685 mmol, 0.0316 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.411 mmol, 0.0570 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2-dimethylimidazole-4-sulfonyl chloride | 0.205 mmol, 0.0400 mL | CN1C(=NC(=C1)S(=O)(=O)Cl)C | C5H7ClN2O2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(1,2-dimethylimidazol-4-ylsulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0217 g, yield 51% | CN1C(=NC(=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)C | C32H37N5O6S
